US04556709
A solution of 2.91 g of 2-ethylmercapto-8-cyclopropyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid and 2.2 l g of N-methylpiperazine in 30 ml of N-dimethylformamide is heated at 110° for 2.5 hours. The solvent is distilled off in vacuo and the residue is recrystallised from ethanol. 2.4 g (73% of the theoretical yield) of 2-(4-methyl-piperazino-8-cyclopropyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid with a melting point of 209°-210° C. are obtained.

reactant | 2-ethylmercapto-8-cyclopropyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid | 2.91 g | C(C)SC=1N=CC2=C(N1)N(C=C(C2=O)C(=O)O)C2CC2 | C13H13N3O3S
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 4-methyl-piperazino-8-cyclopropyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid | CN1CCN(CC1)C=1N=CC2=C(N1)N(C=C(C2=O)C(=O)O)C2CC2 | C16H19N5O3
